************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: TLATNTSCAX4
* View Name:     schematic
* Netlisted on:  Jun  4 07:52:03 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    TLATNTSCAX4
* View Name:    schematic
************************************************************************

.SUBCKT TLATNTSCAX4 CK E ECK SE VDD VSS
*.PININFO CK:I E:I SE:I VDD:I VSS:I ECK:O
Mmn1 Eb E VSS VSS g45n1svt m=1 l=45n w=145n
Mmn0 Eb SE VSS VSS g45n1svt m=1 l=45n w=145n
Mmn22 ECK ECKb VSS VSS g45n1svt m=1 l=45n w=1.04u
Mmn21 ECKb CKbb net271 VSS g45n1svt m=1 l=45n w=260n
Mmn20 net271 Eint VSS VSS g45n1svt m=1 l=45n w=260n
Mmn16 n5 CKbb net263 VSS g45n1svt m=1 l=45n w=145n
Mmn15 net263 Eint VSS VSS g45n1svt m=1 l=45n w=145n
Mmn2 CKb CK VSS VSS g45n1svt m=1 l=45n w=145n
Mmn10 Eint n5 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn5 Eb CKb n5 VSS g45n1svt m=1 l=45n w=145n
Mmn3 CKbb CKb VSS VSS g45n1svt m=1 l=45n w=145n
Mmp1 Eb E net246 VDD g45p1svt m=1 l=45n w=215n
Mmp0 net246 SE VDD VDD g45p1svt m=1 l=45n w=215n
Mmp22 ECK ECKb VDD VDD g45p1svt m=1 l=45n w=1.56u
Mmp16 n5 CKb net234 VDD g45p1svt m=1 l=45n w=215n
Mmp15 net234 Eint VDD VDD g45p1svt m=1 l=45n w=215n
Mmp2 CKb CK VDD VDD g45p1svt m=1 l=45n w=215n
Mmp10 Eint n5 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp3 CKbb CKb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp5 n5 CKbb Eb VDD g45p1svt m=1 l=45n w=215n
Mmp21 ECKb CKbb VDD VDD g45p1svt m=1 l=45n w=390n
Mmp20 ECKb Eint VDD VDD g45p1svt m=1 l=45n w=390n
.ENDS

